.SubCkt GR343QD72E224KW01 _net1 _net2
.param K01=2.1332e-07
.param M01=4.5455e+08
.param L02=3.2047e-10
.param M03=7.1617e-03
.param K04=7.8201e-05
.param M04=3.2300e+01
.param K05=1.0404e-04
.param M05=4.9404e+00
.param K06=9.5057e-05
.param M06=1.0994e+00
.param K07=8.1395e-05
.param M07=2.4819e-01
.param K08=6.0592e-05
.param M08=5.4481e-02
.param K09=7.4380e-05
.param M09=6.9068e-03
.param L10=1.5917e-11
.param M10=2.0087e-01
.param L11=7.0878e-11
.param M11=4.7550e-02
.param L12=2.8406e-11
.param M12=1.7783e-02
.param K13=6.0107e-07
.param L13=5.8382e-11
.param M13=5.8422e-02
.param K14=1.5993e-07
.param L14=7.7756e-11
.param M14=5.5963e-02
.param K15=3.2038e-09
.param L15=5.4715e-11
.param M15=2.4024e-02
.param K16=9.7756e-12
.param L16=2.3269e-10
.param M16=2.4630e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 

.SubCkt GR343QD7LP224KW01 _net1 _net2
.param K01=2.1332e-07
.param M01=4.5455e+08
.param L02=3.2047e-10
.param M03=7.1617e-03
.param K04=7.8201e-05
.param M04=3.2300e+01
.param K05=1.0404e-04
.param M05=4.9404e+00
.param K06=9.5057e-05
.param M06=1.0994e+00
.param K07=8.1395e-05
.param M07=2.4819e-01
.param K08=6.0592e-05
.param M08=5.4481e-02
.param K09=7.4380e-05
.param M09=6.9068e-03
.param L10=1.5917e-11
.param M10=2.0087e-01
.param L11=7.0878e-11
.param M11=4.7550e-02
.param L12=2.8406e-11
.param M12=1.7783e-02
.param K13=6.0107e-07
.param L13=5.8382e-11
.param M13=5.8422e-02
.param K14=1.5993e-07
.param L14=7.7756e-11
.param M14=5.5963e-02
.param K15=3.2038e-09
.param L15=5.4715e-11
.param M15=2.4024e-02
.param K16=9.7756e-12
.param L16=2.3269e-10
.param M16=2.4630e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 

.SubCkt GR343DD72W154KW01 _net1 _net2
.param K01=2.1332e-07
.param M01=6.6667e+08
.param L02=2.6977e-10
.param M03=8.0568e-03
.param K04=6.1195e-05
.param M04=4.4118e+01
.param K05=8.1409e-05
.param M05=6.8615e+00
.param K06=7.2583e-05
.param M06=1.5611e+00
.param K07=6.8961e-05
.param M07=3.2452e-01
.param K08=6.3238e-05
.param M08=7.3620e-02
.param K09=4.9791e-05
.param M09=1.4315e-02
.param L10=6.4310e-11
.param M10=5.6193e-02
.param L11=9.3009e-11
.param M11=4.1670e-02
.param L12=3.3693e-11
.param M12=1.5076e-02
.param K13=3.3318e-07
.param L13=8.6614e-11
.param M13=9.2441e-02
.param K14=1.8814e-07
.param L14=5.8086e-11
.param M14=7.8003e-02
.param K15=7.4287e-12
.param L15=3.4919e-10
.param M15=4.4985e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR343DD72E334KW01 _net1 _net2
.param K01=3.2982e-07
.param M01=3.0303e+08
.param L02=3.3257e-10
.param M03=5.1125e-03
.param K04=8.7938e-05
.param M04=4.9307e+01
.param K05=1.5065e-04
.param M05=3.5648e+00
.param K06=1.5583e-04
.param M06=7.0303e-01
.param K07=1.3463e-04
.param M07=1.7867e-01
.param K08=7.4847e-05
.param M08=3.2823e-02
.param K09=3.1777e-04
.param M09=1.8399e-02
.param L10=1.1668e-10
.param M10=3.7359e-02
.param L11=6.7253e-11
.param M11=3.2849e-02
.param L12=3.7962e-11
.param M12=1.0415e-02
.param K13=1.0086e-06
.param L13=7.1597e-11
.param M13=7.3828e-02
.param K14=4.0535e-07
.param L14=7.1289e-11
.param M14=6.6271e-02
.param K15=1.1136e-11
.param L15=1.8845e-10
.param M15=1.6477e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR343DD7LQ154KW01 _net1 _net2
.param K01=1.5544e-07
.param M01=6.6667e+08
.param L02=2.6977e-10
.param M03=8.0568e-03
.param K04=6.1195e-05
.param M04=4.4118e+01
.param K05=8.1409e-05
.param M05=6.8615e+00
.param K06=7.2583e-05
.param M06=1.5611e+00
.param K07=6.8961e-05
.param M07=3.2452e-01
.param K08=6.3238e-05
.param M08=7.3620e-02
.param K09=4.9791e-05
.param M09=1.4315e-02
.param L10=6.4310e-11
.param M10=5.6193e-02
.param L11=9.3009e-11
.param M11=4.1670e-02
.param L12=3.3693e-11
.param M12=1.5076e-02
.param K13=3.3318e-07
.param L13=8.6614e-11
.param M13=9.2441e-02
.param K14=1.8814e-07
.param L14=5.8086e-11
.param M14=7.8003e-02
.param K15=7.4287e-12
.param L15=3.4919e-10
.param M15=4.4985e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR343DD7LP334KW01 _net1 _net2
.param K01=3.2982e-07
.param M01=3.0303e+08
.param L02=3.3257e-10
.param M03=5.1125e-03
.param K04=8.7938e-05
.param M04=4.9307e+01
.param K05=1.5065e-04
.param M05=3.5648e+00
.param K06=1.5583e-04
.param M06=7.0303e-01
.param K07=1.3463e-04
.param M07=1.7867e-01
.param K08=7.4847e-05
.param M08=3.2823e-02
.param K09=3.1777e-04
.param M09=1.8399e-02
.param L10=1.1668e-10
.param M10=3.7359e-02
.param L11=6.7253e-11
.param M11=3.2849e-02
.param L12=3.7962e-11
.param M12=1.0415e-02
.param K13=1.0086e-06
.param L13=7.1597e-11
.param M13=7.3828e-02
.param K14=4.0535e-07
.param L14=7.1289e-11
.param M14=6.6271e-02
.param K15=1.1136e-11
.param L15=1.8845e-10
.param M15=1.6477e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GR343DD72J683KW01 _net1 _net2
.param K01=6.8113e-08
.param M01=1.4706e+09
.param L02=2.7241e-10
.param M03=1.1970e-02
.param K04=2.9917e-05
.param M04=7.6116e+01
.param K05=3.9400e-05
.param M05=1.0948e+01
.param K06=3.5879e-05
.param M06=2.3497e+00
.param K07=3.2769e-05
.param M07=4.7992e-01
.param K08=2.7705e-05
.param M08=9.7528e-02
.param K09=2.4262e-05
.param M09=1.6028e-02
.param L10=1.0439e-10
.param M10=9.9355e-02
.param L11=4.3189e-11
.param M11=7.4733e-02
.param K12=1.6614e-07
.param L12=6.9540e-11
.param M12=1.1945e-01
.param K13=6.5911e-08
.param L13=6.2020e-11
.param M13=1.0944e-01
.param K14=7.3761e-12
.param L14=3.6483e-10
.param M14=3.9916e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 
